US05053548
A mixture was prepared by suspending 5.0 g of aluminium chloride into 25 ml of 1,2-dichloroethane. The mixture was added 1.0 ml of acetylchloride, stirred for 1 hour at room temperature. The reaction mixture, wherein 2.4 g of 5-ethyl-2,4'-dimethoxybiphenyl was added, was stirred for 2 hours with cooling by the ice bath and stirred from further 2 hours at room temperature. Ice water was added into the reaction mixture, and extracted with chloroform. The extract was washed with 10% water solution of sodium hydrogencarbonate and an aqueous solution saturated with NaCl, dried with sodium sulfate and concentrated. The concentrate was purified by a silica gel column-chromatography (n-hexane:ethyl acetate=50:1) to yield 1.6 g of 3'-acetyl-5-ethyl-4'-hydroxy-2-methoxybiphenyl.

reactant | aluminium chloride | 5.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetylchloride | 1.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-ethyl-2,4'-dimethoxybiphenyl | 2.4 g | C(C)C=1C=CC(=C(C1)C1=CC=C(C=C1)OC)OC | C16H18O2
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 3'-acetyl-5-ethyl-4'-hydroxy-2-methoxybiphenyl | 1.6 g | C(C)(=O)C=1C=C(C=CC1O)C1=C(C=CC(=C1)CC)OC | C17H18O3
